US07807709B2
b. 3-(3-Hydroxy-propoxy)-4-methoxy-benzoic acid
A solution of 3-(3-hydroxy-propoxy)-4-methoxy-benzoic acid methyl ester (1.00 g, 4.16 mmol) in THF (3.0 mL) and 2N NaOH (3.1 mL) is stirred at room temperature over 6 hrs. The mixture is adjusted to pH 1 by addition of 2N aqueous HCl to afford a white suspension. The precipitate is filtered, washed with water and dried in vacuo at 50° C. to give the title compound as white solid. MS: 225.0 [M−H]+. 1H-NMR (CDCl3): δ 1.88 (m, 2H), 3.57 (m, 2H), 3.83 (s, 3H), 4.07 (m, 2H), 4.56 (s, br, 1H), 7.06 (dd, 1H), 7.46 (d, 1H), 7.57 (dd, 1H), 12.7 (s, br, 1H) ppm.

reactant | 3-(3-hydroxy-propoxy)-4-methoxy-benzoic acid methyl ester | 4.16 mmol, 1.00 g | COC(C1=CC(=C(C=C1)OC)OCCCO)=O | C12H16O5
reactant | HCl | 2N | Cl | ClH
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2N, 3.1 mL | [OH-].[Na+]
product | 3-(3-Hydroxy-propoxy)-4-methoxy-benzoic acid | OCCCOC=1C=C(C(=O)O)C=CC1OC | C11H14O5
